US05447960
Methyl 2-benzylbenzoate (10.0 g) was added dropwise to a stirred solution of 4-methoxyphenyl magnesium bromide, which was prepared in situ from magnesium (3.2 g) and 4-bromoanisole (24.9 g), in THF at room temperature. After 16 hours, the mixture was quenched with ammonium chloride solution and the solvent evaporated in vacuoo The residue was extracted with ethyl acetate, dried (MgSO4), filtered, and evaporated in vacuo to give di-(4-methoxyphenyl)-(2-benzylphenyl)carbinol as an oil. This oil was dissolved in acetic acid (50 mL) and concentrated H2SO4 (2.0 mL) was added the resulting mixture was heated to 100° C. for one hour and then neutralized with NaOH solution. The mixture was extracted with ether and the organic extracts were combined, dried (MgSO4), filtered, evaporated in vacuo and chromatographed on silica gel eluting with hexane/ethyl acetate (10/1) to give 9,9-bis(4-methoxyphenyl)-(9H, 10H)-dihydroanthracene (7.1 g) as a solid. M.P. 138°-140° C. Demethylation was performed using the sodium ethanethiolate/DMF procedure described in Example 3 to give the title product in 77% yield as a solid. M.P. 230°-232° C.

reactant | Methyl 2-benzylbenzoate | 10.0 g | C(C1=CC=CC=C1)C1=C(C(=O)OC)C=CC=C1 | C15H14O2
reactant | 4-methoxyphenyl magnesium bromide | COC1=CC=C(C=C1)[Mg]Br
reactant | magnesium | 3.2 g | [Mg] | Mg
reactant | 4-bromoanisole | 24.9 g | BrC1=CC=C(C=C1)OC | C7H7BrO
solvent | THF | C1CCOC1 | C4H8O
product | di-(4-methoxyphenyl)-(2-benzylphenyl)carbinol | COC1=CC=C(C=C1)C(O)(C1=C(C=CC=C1)CC1=CC=CC=C1)C1=CC=C(C=C1)OC | C28H26O3
